US09034866B2
Synthesis of methyl 10-bromo-9-fluoro-3-(hydroxy(3-(trifluoromethyl)phenyl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate
The title compound was prepared similarly according to the procedure in Example 9. Methyl 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate (150 mg, 0.44 mmol) was dissolved in THF (1.3 mL, 3 mL/mmol) and the solution was cooled to 0° C. A solution of TMPMgCl/LiCl (1 M in toluene/THF, 1.6 equiv., 0.704 mL, 0.70 mmol) was added down the side of the vial slowly. The mixture was allowed to stir for 30 minutes. After 30 minutes, 3-(trifluoromethyl)benzaldehyde (1.0 equiv., 0.06 mL, 0.44 mmol) was added and the reaction continued to stir for 30 minutes. The reaction was quenched with saturated NH4Cl and extracted 3 times with methylene chloride. The organic layers were combined, dried with Na2SO4 and concentrated. The crude was purified by flash chromatography to afford 73 mg (32.2% yield) of a white solid.

reactant | Methyl 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate | 0.44 mmol, 150 mg | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)OC)C1)F | C13H10BrFN2O3
reactant | LiCl | 0.70 mmol, 1 M, 0.704 mL, 1.6 equiv. | [Li+].[Cl-]
reactant | 3-(trifluoromethyl)benzaldehyde | 0.44 mmol, 0.06 mL, 1.0 equiv. | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
solvent | THF | 1.3 mL | C1CCOC1 | C4H8O
product | methyl 10-bromo-9-fluoro-3-(hydroxy(3-(trifluoromethyl)phenyl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)OC)C(C3=CC(=CC=C3)C(F)(F)F)O)C1)F | C21H15BrF4N2O4
